US09290468B2
Step 2: 7-(cyclopropylsulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one
To a solution of 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one (70 mg, 0.16 mmol) in CH2Cl2 (5 mL) was added triethylamine (48 mg, 0.49 mmol) at 0° C. followed by cyclopropanesulfonyl chloride (35 mg, 0.25 mmol) and DMAP (10 mg). The mixture was stirred at room temperature for 1 h and washed with saturated NaHCO3 (aq.). The aqueous layer was extracted with CH2Cl2 (10 mL×2). The combined organic phase was washed with water (10 mL) and brine (10 mL) successively, dried over

reactant | 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | 0.16 mmol, 70 mg | FC1=C2C(=CC3=C1N=CS3)NC(N2C2=C(C=C(C=C2)I)F)=O | C14H6F2IN3OS
reactant | triethylamine | 0.49 mmol, 48 mg | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulfonyl chloride | 0.25 mmol, 35 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-(cyclopropylsulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N=CS1)C2F)C2=C(C=C(C=C2)I)F)=O | C17H10F2IN3O3S2
